US07119221B2
Under a N2 atmosphere at −60° C., a solution of butyl cyclopentanecarboxylate (prepared according to Payne, G. B.; Smith, C. W., J. Org. Chem., 1957, 22, 1680–1682, 80.0 g, 0.42 mol) and 1,4-dibromobutane (183.3 g, 0.84 mol) in dry THF (700 mL) was added drop wise to a mixture of LDA (2M in THF/heptane/ethylbenzene, 250 mL, 0.50 mol) and dry THF (250 mL) in 1.5 h. After that, the reaction mixture was allowed to slowly reach rt during 3.5 h. Then, the reaction mixture was poured into ice-cold saturated aqueous NH4Cl (1 L). The organic layer was decanted and concentrated in vacuo to a smaller volume. The aqueous layer was extracted with Et2O (3×250 mL). The combined organic layers were washed with saturated aqueous NH4Cl (250 mL) and brine (2×250 mL), dried (Na2SO4) and evaporated in vacuo. The remaining residue was purified by fractional distillation to give butyl 1-(4-bromo-butyl)-cyclopentanecarboxylate (62.8 g, 49%) as a light yellow liquid. bp: T=116–117° C. (p=0.040–0.051 Torr). 1H NMR (CDCl3): δ=4.07 (t, J=6.6 Hz, 2H), 3.38 (t, J=6.8 Hz, 2H), 2.16–2.10 (m, 2H), 1.83 (quintet, J=7.1 Hz, 2H), 1.65–1.59 (m, 8H), 1.50–1.31 (m, 6H), 0.94 (t, J=7.2 Hz, 3H). 13C NMR (CDCl3): δ=177.6, 64.1, 53.9, 38.2, 36.0 (2×), 33.3, 33.0, 30.6, 24.8 (2×), 24.6, 19.1, 13.6. HRMS calcd for C14H25BrO2 (M+): 304.1038, found: 304.1042.

reactant | butyl cyclopentanecarboxylate | 0.42 mol, 80.0 g | C1(CCCC1)C(=O)OCCCC | C10H18O2
reactant | 1,4-dibromobutane | 0.84 mol, 183.3 g | BrCCCCBr | C4H8Br2
reactant | LDA | 0.50 mol, 2M, 250 mL | [Li+].CC(C)[N-]C(C)C
solvent | THF | 700 mL | C1CCOC1 | C4H8O
solvent | THF | 250 mL | C1CCOC1 | C4H8O
product | butyl 1-(4-bromo-butyl)-cyclopentanecarboxylate | 62.8 g, 49% | BrCCCCC1(CCCC1)C(=O)OCCCC | C14H25BrO2
